US05110956
[{2-(1,3-Benzodioxol-5-yl)ethyl}thio]cyanoacetic acid
5.0 g of [{2-(1,3-benzodioxol-5-yl)ethyl}thio]-acetonitrile was dissolved in 50 ml of anhydrous ether. 22 ml of a 1.6 M solution of n-butyllithium in hexane was added to the solution at -78° C. The mixture was stirred at -50° C. for 2 h. It was cooled again to -78° C. and 10 g of dry ice was added thereto. The temperature of the mixture was elevated to room temperature. Water was added to the reaction mixture. After extraction with chloroform, the extract was dried over magnesium sulfate and concentrated. The residue was purified according to silica gel column chromatography (chloroform) and recrystallized from ethyl acetate/hexane to obtain 0.70 g of the intended compound in the form of colorless needles.

reactant | [{2-(1,3-benzodioxol-5-yl)ethyl}thio]-acetonitrile | 5.0 g | O1COC2=C1C=CC(=C2)CCSCC#N | C11H11NO2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | dry ice | 10 g | C(=O)=O | CO2
reactant | Water | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | [{2-(1,3-Benzodioxol-5-yl)ethyl}thio]cyanoacetic acid | 0.70 g | O1COC2=C1C=CC(=C2)CCSC(C(=O)O)C#N | C12H11NO4S
